US05126448
In 200 ml of methanol was dissolved 12.16 g of benzo[b]thieno[2,3-c]pyridine-3-carboxylic acid methyl ester and after adding thereto 55 ml of a methanol solution of 1N sodium hydroxide, the mixture was refluxed for 30 minutes. After allowing the temperature to lower to room temperature, the mixture was allowed to stand overnight in a refrigerator and crystals thus deposited were collected by filtration. The crystals were suspended in water and after adjusting the pH thereof to from 2 to 3 with 1N hydrochloric acid, the suspension was stirred for a whole day and night at room temperature. Precipitates thus formed were collected by filtration to provide 10.2 g (yield of 88%) of benzo[b]thieno[2,3-c]pyridine-3-carboxylic acid.

reactant | benzo[b]thieno[2,3-c]pyridine-3-carboxylic acid methyl ester | 12.16 g | COC(=O)C=1CSC23C(=NC=CC21)C=CC=C3 | C13H11NO2S
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | methanol | 200 ml | CO | CH4O
solvent | methanol | 55 ml | CO | CH4O
product | benzo[b]thieno[2,3-c]pyridine-3-carboxylic acid | 10.2 g, yield of 88% | S1CC(=C2C13C(=NC=C2)C=CC=C3)C(=O)O | C12H9NO2S
